US04722811
To a one liter stainless steel autoclave, equipped with a mechanical stirrer, heater, cooling coils, automatic temperature controller, and a tared ethylene oxide cylinder, in a series of runs is added 500 grams neononanoic acid and 2.0 g of the selected catalyst. The reactor is heated to approximately 100° C. and a gaseous N2 purge of the reactor is introduced to remove both oxygen and water. With continued N2 purging its temperature of the neo acid/catalyst solution is gradually raised to 150° C. Upon reaching temperature, the N2 purge is stopped and the reactor vents are sealed. Ethylene oxide is then slowly added to the reactor until a pressure of 60 psig is obtained. The ethylene oxide flow is then stopped. As the reaction between the neo acid and the ethylene proceeds, the pressure of the reactor vessel will slowly decrease. When the pressure reaches 20 psig, ethylene oxide is again slowly charged to the reactor until a pressure of 60 psig is obtained. The ethylene oxide flow is then decreased to the point where a steady reactor pressure of 60 psig is obtained. The addition of ethylene oxide continues until the desired quantity of ethylene oxide has been added to the reaction. The flow of ethylene oxide is then stopped. The reaction mixture is stirred for an additional 20 minutes, until the reactor pressure decreases to 15 psig. Total reaction time, from the start of ethylene oxide addition is about 55 minutes. The reactor is then vented, a gaseous nitrogen purge is introduced, and the reaction product is cooled to room temperature. The crude ethylene glycol mononeononanoate product mixture thereby obtained was characterized by gas chromatography and found to have the following characteristics:

reactant | ethylene oxide | C1CO1 | C2H4O
reactant | neononanoic acid | 500 grams | C(CCCCC(C)(C)C)(=O)O | C9H18O2
reactant | ethylene | C=C | C2H4
product | ethylene glycol mononeononanoate | C(CCCCC(C)(C)C)(=O)OCCO | C11H22O3
